US07326788B2
c. 1-Benzyl-6-chloro-4-hydroxy-3-(3-methyl-isoxazol-5-yl)-1H-quinolin-2-one
To a mixture of 2-{benzyl-[2-(3-methyl-isoxazol-5-yl)-acetyl]-amino}-5-chloro-benzoic acid benzyl ester (3.30 g, 7.58 mmol) in 25 ml of DMF at 0° C. was added NaH (340 mg). The mixture was stirred at rt for 1 h under Ar. Treated with 200 ml of EtOAc, the mixture was extracted with H2O (4×50 ml). The combined aqueous layers were neutralized to pH=6 with 1N HCl and extracted with EtOAc (4×50 ml). The combined org. layers were washed with H2O (2×50 ml), brine (50 ml) and dried (Na2SO4). Removal of the solvent under reduced pressure gave. 2.35 g (92%) of product as a white solid: 1H-NMR (CD3OD, 400 MHz) δ 9.49 (s, 1H), 8.21 (d, 1H, J=2.6 Hz), 7.48 (dd, 1H, J=9.0, 2.6 Hz), 7.17-7.36 (m, 7H), 5.60 (s, 2H), 2.43 (s, 3H), 2.54 (s, 3H). Mass spectrum (ESI, m/z): Calcd. for C20H15ClN203, 367.1 (M+H), found 367.0.

reactant | 2-{benzyl-[2-(3-methyl-isoxazol-5-yl)-acetyl]-amino}-5-chloro-benzoic acid benzyl ester | 7.58 mmol, 3.30 g | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)Cl)N(C(CC1=CC(=NO1)C)=O)CC1=CC=CC=C1)=O | C27H23ClN2O4
reactant | NaH | 340 mg | [H-].[Na+]
reactant | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-6-chloro-4-hydroxy-3-(3-methyl-isoxazol-5-yl)-1H-quinolin-2-one | C(C1=CC=CC=C1)N1C(C(=C(C2=CC(=CC=C12)Cl)O)C1=CC(=NO1)C)=O | C20H15ClN2O3
